US04335098
A mixture of 5.0 g (0.0156 mole) of (E)-3-[5-(1-oxododecyl)-2-furanyl]-2-propenoic acid, 1.0 g of potassium hydroxide and 100 ml of methanol is heated with stirring on a steam bath for 1 hour. The methanol is distilled off to 50 ml and the mixture cooled. The solid is separated by filtration to give potassium (E)-3-[5-(1-oxododecyl)-2-furanyl]-2-propenoate, m.p. 220°-230° C. (decomposition).

reactant | (E)-3-[5-(1-oxododecyl)-2-furanyl]-2-propenoic acid | 0.0156 mole, 5.0 g | O=C(CCCCCCCCCCC)C1=CC=C(O1)/C=C/C(=O)O | C19H28O4
reactant | potassium hydroxide | 1.0 g | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | potassium (E)-3-[5-(1-oxododecyl)-2-furanyl]-2-propenoate | O=C(CCCCCCCCCCC)C1=CC=C(O1)/C=C/C(=O)[O-].[K+] | InChI=1S/C19H28O4.K/c1-2-3-4-5-6-7-8-9-10-11-17(20)18-14-12-16(23-18)13-15-19(21)22;/h12-15H,2-11H2,1H3,(H,21,22);/q;+1/p-1/b15-13+;
